US07714010B2
f) 5′,6′-Diamino-1′-methyl-spiro[cyclopropane-1,3′-indol]-2′-one
Analogously to general procedure (II) the compound is prepared from 5′-amino-1′-methyl-6′-nitro-spiro[cyclopropane-1,3′-indoline]-2′-one (50 mg) in MeOH (10 ml) and hydrochloric acid (1 ml) using Pd/C (15.0 mg) as catalyst (3 h; 1 bar). After an aqueous work-up the compound is used without further purification.

reactant | 5′-amino-1′-methyl-6′-nitro-spiro[cyclopropane-1,3′-indoline]-2′-one | 50 mg | NC=1C=C2C3(C(N(C2=CC1[N+](=O)[O-])C)=O)CC3 | C11H11N3O3
solvent | MeOH | 10 ml | CO | CH4O
solvent | hydrochloric acid | 1 ml | Cl | ClH
catalyst | Pd/C | 15.0 mg | [Pd] | Pd
product | 5′,6′-Diamino-1′-methyl-spiro[cyclopropane-1,3′-indol]-2′-one | NC=1C=C2C3(C(N(C2=CC1N)C)=O)CC3 | C11H13N3O
